US05142048
To a solution of 2(S)-[Nα -[2(S)-{N-(2-morpholinocarbonylethyl)-N-methylaminocarbonyloxy}-3-phenylpropionyl]-Nα -methyl-L-histidyl]amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane (4.55 g) in ethanol (50 ml) which was cooled to 0° C., was added 4 N hydrogen chloride in dioxane solution (1.9 ml). After the mixture was stirred at the same temperature for 10 minutes, the solvent was evaporated under reduced pressure. The residue was crystallized from ethanol (5 ml) and ethyl acetate (150 ml) to give 2(S)-[Nα -[2(S)-{N-(2-morpholinocarbonylethyl)-N-methylaminocarbonyloxy}-3-phenylpropionyl]-Nα -methyl-L-histidyl]amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane monohydrochloride (3.93 g).

reactant | 2(S)-[Nα -[2(S)-{N-(2-morpholinocarbonylethyl)-N-methylaminocarbonyloxy}-3-phenylpropionyl]-Nα -methyl-L-histidyl]amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane | 4.55 g | O1CCN(CC1)C(=O)CCN(C)C(=O)O[C@H](C(=O)N([C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O)C)CC1=CC=CC=C1 | C39H60N6O7
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dioxane | 1.9 ml | O1CCOCC1 | C4H8O2
product | 2(S)-[Nα -[2(S)-{N-(2-morpholinocarbonylethyl)-N-methylaminocarbonyloxy}-3-phenylpropionyl]-Nα -methyl-L-histidyl]amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane monohydrochloride | 3.93 g | Cl.O1CCN(CC1)C(=O)CCN(C)C(=O)O[C@H](C(=O)N([C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O)C)CC1=CC=CC=C1 | InChI=1S/C39H60N6O7.ClH/c1-28(2)15-16-34(46)32(23-29-11-7-5-8-12-29)42-37(48)33(25-31-26-40-27-41-31)44(4)38(49)35(24-30-13-9-6-10-14-30)52-39(50)43(3)18-17-36(47)45-19-21-51-22-20-45;/h6,9-10,13-14,26-29,32-35,46H,5,7-8,11-12,15-25H2,1-4H3,(H,40,41)(H,42,48);1H/t32-,33-,34-,35-;/m0./s1
